Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ pmh below presents with CC of a constellation of symptoms, 
primarily chest and abdominal pain. Chest pain was yesterday, 
becoming abdominal pain today located primarily in the upper 
epigastrium and radiating through the belly and to the chest. No 
n/v/d. She had a temp of 100.1 at triage, but otherwise no 
fevers per pt. At 6am, a nurse who is a relative noted L leg 
weakness and a L eye droop which has since improved. Last normal 
was when pt went to sleep yesterday evening. ___ has had a dry 
cough for 2 weeks. She has had several weeks of worsening b/l 
leg edema, has not been on lasix recently, was on it previously. 

  
On the floor, vs were: 98.5 141/87 64 20 96RA

 
Past Medical History:
PAST MEDICAL HISTORY:  
-systolic and diastolic heart failure
-breast cancer s/p mastectomy ___ years ago
-HTN
-right hip replacement
-bilateral knee replacement
-chronic pedal edema
-bilateral cataract implants in ___ and ___
-hx of DVT
-atrial fibrillation
-syncope
-chronic renal failure
-hypokalemia

 
Social History:
___
Family History:
brother with DM, stroke
daugther with stroke
 
Physical Exam:
PHYSICAL EXAM:  
Vitals: 98.5 141/87 64 20 96RA  
Wt: 85kg
General: AOx2 (person, place)  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP difficult to appreciate ___ body habitus  
Lungs: mild crackles at bases bilaterally, decreased breath 
sounds at bases  
CV: irreg, nl rate, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Back: No TTP over C,T,L spine
Ext: Warm, well perfused, no clubbing, cyanosis; 3+ pitting 
edema to sacrum   
Neuro:  equal strength bl at level of ankle, no facial droop

PHYSICAL EXAM:  
Vitals:98.7 142/90 62 20 96RA
Wt: 74kg
General: elderly woman in no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP difficult to appreciate ___ body habitus  
Lungs: minimally reduced breath sounds at bases bilaterally. 
Improved inspiratory crackles. No wheezes. No accessory muscle 
use, no tripoding.
CV: irreg, nl rate, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Back: No TTP over C,T,L spine
Ext: Warm, well perfused, no clubbing, cyanosis; 2+ pitting 
edema to sacrum
Neuro: A&O x name, location. Grossly normal sensation. Difficult 
assess strength, but ___ distally in feet.

 
Pertinent Results:
ADMISSION LABS:

___ 09:15AM BLOOD WBC-7.0# RBC-3.13* Hgb-11.3* Hct-36.3 
MCV-116* MCH-36.2* MCHC-31.2 RDW-17.7* Plt ___
___ 09:15AM BLOOD ___ PTT-58.8* ___
___ 09:15AM BLOOD Glucose-126* UreaN-19 Creat-0.9 Na-141 
K-3.3 Cl-105 HCO3-25 AnGap-14
___ 09:15AM BLOOD Albumin-3.4* Calcium-8.7 Phos-2.8 Mg-1.9
___ 09:15AM BLOOD ASA-NEG Acetmnp-NEG
___ 09:20AM BLOOD Lactate-1.9

DISCHARGE LABS:

___ 07:20AM BLOOD WBC-3.0* RBC-2.90* Hgb-10.4* Hct-32.9* 
MCV-114* MCH-36.0* MCHC-31.7 RDW-17.0* Plt ___
___ 03:30PM BLOOD Glucose-123* UreaN-19 Creat-0.9 Na-145 
K-3.4 Cl-105 HCO3-28 AnGap-15
___ 07:20AM BLOOD Calcium-8.1* Phos-3.7 Mg-2.3

IMAGING:
CT HEAD:
FINDINGS: 
  
There is no hemorrhage, edema, mass effect or acute large 
territory infarct.  
Prominent ventricles and sulci compatible with age-related 
involutional 
change.  The basal cisterns appear patent and there is 
preservation of 
gray-white matter differentiation.  No acute fracture is 
identified.  Old 
fixation hardware is seen along the left maxillary bone.  A 
mucous retention 
cyst is visualized left maxillary sinus as well as left frontal 
sinus.  The 
mastoid air cells and middle ear cavities are clear.  The globes 
are 
unremarkable. 
  
IMPRESSION: 
  
No acute intracranial process. 

CT ABDOMEN PELVIS/CTA CHEST
IMPRESSION: 
  
1. No acute thoracic, abdominal or pelvic process.   
  
2. Multiple findings suggestive of congestive heart failure 
including 
cardiomegaly, bilateral pleural effusions, and there is third 
spacing of fluid 
in the mesentery and soft tissues. 
  
3. Multiple vertebral body compression fractures with the L3 
fracture new 
since prior exam on ___.  Severe bilateral 
glenohumeral joint 
degenerative changes with associated effusion sequestering in 
the subscapular 
space. 
  
4. 7 mm hypodensity in the pancreatic body. MRCP recommended.    

  
5. Cholelithiasis. 
  
6. Multinodular enlarged thyroid appearing roughly stable from 
___. 

MRI SPINE:
IMPRESSION: 
1.  Compression deformities as above, most strikingly involving 
the L1 
vertebral body where there is mild retropulsion of the superior 
aspect of that 
vertebral body.  However, this does not result in severe spinal 
canal stenosis 
at this (or any other fractured) level.  
2.  Degenerative changes as catalog above, including moderately 
severe spinal 
canal narrowing at L4-L5.  
3.  Extensive lobulated T2 hyperintensity surrounding the 
glenohumeral joints 
bilaterally, appearing septated in areas. This is incompletely 
evaluated 
though likely represents large joint effusions or adjacent 
bursal fluid 
collections.  

MRCP:
IMPRESSION: 
1.  1.2-cm cystic pancreatic lesion in the pancreatic body, most 
likely 
representing a side branch ___.  Envisioning the patient's age 
and size of 
the lesion a followup MRI exam in one year is recommended to 
ensure stability. 
2.  Cholecystolithiasis with a focal area of fundal 
adenomyomatosis. 
3.  Moderate-sized right-sided pleural effusion. 
4.  Right upper pole renal cysts. 

L SPINE PLAIN FILM
FINDINGS:  No previous images.  There is a compression fracture 
of L1 with 
associated fracture at T12 and extensive bridging osteophytes, 
suggesting that 
this represents an old injury.  An apparent acute compression 
fracture is seen 
at L3.  There may be slight anterolisthesis at the L3-4 level. 
  
There is marked narrowing at L4-5 and L5-S1, consistent with 
substantial 
degenerative changes. 
  

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with systolic and diastolic 
CHF, HTN, Afib, CKD, hx of DVT, hx of syncope presenting with 
dyspnea, chest pain, incidental finding of numerous compression 
fractures and possible ___.

# CHF: Pt initially presented which chest pain (actually mid 
epigastric pain)so CT scan performed and patient noted to have 
pulmonary edema, pleural effusions.  Also grossly volume 
overloaded on exam.  Had not been receiving lasix.  Decision 
made to diurese patient aggressively with goal ___ negative per 
day.  She was given Lasix IV 40mg daily with good output.  She 
was transitioned to PO lasix 40mg daily and had 2 incontinent 
voids afterwards. Pt no longer with dyspnea. Pt has known 
systolic and diastolic CHF w/ last echo ___ showing EF 55-60%. 
Pt has bilateral R > L pleural effusions on CT from ___ 
which is decreased on her subsequent MRI, cardiomegaly, 
prominent ___ edema. Patient has had significant improvement with 
diuresis with complete resolution of dyspnea and improvement in 
weight (down ~11kg). 
-cont furosemide 40mg po daily
-repeat lytes as an outpatient

# Compression fractures: found on imaging while in ED.  
Evaluated by spine while in the ED who recommended evaluation 
with MRI C, T, L spine.  No pain on exam, no change in strength 
bl at level of ankle.  Difficult to lift legs given prominent ___ 
edema. MRI showed retropulsion (mild) at L1, compression 
fractures at L3, and degenerative changes at L4/L5. Seen by 
ortho who recommend brace when out of bed.
-continue brace for compression fx per orthopedics
-f/u with ortho in 2 weeks

#Incidental Finding of suspected Intraductal Papillary Mucinous 
Neoplasm on pancreas: reports intermittent upper abdominal pain 
but no weight loss, no change in stools, no abnormal LFTs. Small 
mass was found incidentally on CT chest. MRCP shows ___ lesion, 
recommend ___ year follow up for interval increase.
-f/u as outpatient, consider annual MRI

# Intermittent lower chest and upper abdominal pain: likely 
etiologies include GERD or abdominal gas. Lipase normal. 
Negative troponins, no concerning changes on ECG. Very short in 
duration. Could be referred pain from thoracic compression 
fractures but Pt does not seem to be moving when she experiences 
the pain.
-no acute intervention performed

# Leukopenia/Thrombocytopenia: unclear etiology, WBCs have 
trended from 7.0k -> 4.3k, -> 3.1k -> 2.9k->3.5->3.0->2.9. No 
evidence of systemic infection aside from intermittent brief 
abdominal pain. No diarrhea, no dysuria, no cough, no fevers. No 
obvious medication effects; no new medications. Plts stable in 
100K since ___. No evidence of bleeding.
-follow up as outpatient and see if trend continues
  
#HTN: continued metoprolol, patient hypertensive to 170s when 
not on lasix.  Sent out on PO furosemide and should have 
outpatient PCP consider further ___.  Likely 
exacerbated by fludricortisone.

#Atrial Fibrillation and h/o DVT: continued warfarin while 
inpatient, will have INR rechecked on ___ and should be 
followed by ___ ___ clinic.

#Syncope: positive tilt table test owing to possible autonomic 
dysreflexia.  On fludricortisone 0.1mg BID.  No acute changes 
were made.

TRANSITIONAL ISSUES:
-Should make an appointment with orthopedic surgery in 2 weeks
-Should have PCP follow up ___ lesion and whether utility in 
further work up at this time
-Should have PCP ___ BP medications

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 2.5 mg PO ___ 
2. Warfarin 5 mg PO ___ 
3. Metoprolol Tartrate 25 mg PO BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Klor-Con 10 *NF* (potassium chloride) 10 mEq Oral qd 
6. Fludrocortisone Acetate 0.1 mg PO BID 

 
Discharge Medications:
1. ___ Bed
The patient has a medical condition requiring positioning of the 
body not feasible by an ordinary bed to alleviate pain.
Diagnosis: Congestive Heart Failure, Osteoporosis, Lumbar 
compression fracture
2. Medical Equipment
Please provide a three in one commode. The patient is confined 
to a single room.
Diagnosis/ICD-9: Congestive Heart Failure, Osteoporosis, Lumbar 
compression fracture
3. Medical Equipment
Please provide one shower chair.
Diagnosis/ICD-9:
Congestive Heart Failure: 428.0, Osteoporosis: 733.0, Lumbar 
compression fracture: 805.4
4. Fludrocortisone Acetate 0.1 mg PO BID 
5. FoLIC Acid 1 mg PO DAILY 
6. Metoprolol Tartrate 25 mg PO BID 
7. Warfarin 3 mg PO ___ 
RX *warfarin 1 mg 3 tablet(s) by mouth daily on ___, 
___ Disp #*90 Tablet Refills:*0
8. Warfarin 5 mg PO ___ 
9. Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
10. Klor-Con 10 *NF* (potassium chloride) 10 mEq Oral qd 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Heart failure
compression fracture
intraductal papillary mucinous neoplasm
hypertension

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for shortness of breath and chest 
pain.  While you were here, you were found to have too much 
fluid, including it being in your chest, lungs, and legs.  We 
gave you lasix for this and you lost a significant amount of 
water weight.  You should continue to take Lasix daily, and 
follow up with your primary care doctor about this medication.  
You should have your blood drawn on ___ to check your 
electrolytes.

You also were found to have compression fractures of your spine, 
and orthopedic surgery saw you.  They recommend you wear a brace 
anytime you are out of bed.  You should see them in follow up in 
the next few weeks.

You were also found to have a small mass in your pancreas.  An 
MRI was performed which recommended that you have a repeat in ___ 
year.  Please talk with your primary care doctor about this 
lesion, called ___ (Intraductal Papillary Mucinous Neoplasm).  
There is no urgent need to do anything about this.

You were also found to have high blood pressure your last two 
days here when you did not receive lasix.  Your fludricortisone 
may be making your blood pressure high.  You should speak with 
your PCP regarding the need for more blood pressure medications.
 
Followup Instructions:
___